US06046192
(S)-4-Benzyloxymandelic acid (1.80 g), (S)-2-amino-7-hydroxytetralin hydrobromide (1.87 g) and benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (3.39 g) were dissolved in N,N-dimethylformamide (21 ml), and triethylamine (2.03 ml) was added to the solution under ice-cooling with stirring. After reaction at room temperature for an hour, diethyl ether and water were added to the reaction mixture. Collection by filtration of the resulting precipitates gave (2S)-2-(4-benzyloxyphenyl)-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide (2.64 g) as powders.

reactant | (S)-4-Benzyloxymandelic acid | 1.80 g | C(C1=CC=CC=C1)OC1=CC=C([C@@H](C(=O)O)O)C=C1 | C15H14O4
reactant | (S)-2-amino-7-hydroxytetralin hydrobromide | 1.87 g | Br.N[C@@H]1CC2=CC(=CC=C2CC1)O
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 3.39 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 2.03 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 21 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2S)-2-(4-benzyloxyphenyl)-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide | 2.64 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H](C(=O)N[C@@H]1CC2=CC(=CC=C2CC1)O)O | C25H25NO4
